US06753331B1
The requisite 1-(5-chloroindol-2-ylsulphonyl)piperazine starting material was prepared as follows 1-(1-Benzenesulphonyl-5-chloroindol-2-ylsulphonyl)piperazine (4.15 g, 9.44 mmol) was treated with sodium hydroxide solution (32 ml of 2.5M), giving a yellow suspension. This was warmed to 80° C. with vigorous stirring and stirred for 45 mins, giving complete solution. The solution was cooled to ambient temperature and carefully treated with concentrated hydrochloric acid to pH 8; the resultant precipitate was filtered off, washed with water and dried to give 1-(5-chloroindol-2-ylsulphonyl)piperazine as a pale yellow solid, 1H NMR (d6DMSO) 2.75 ppm (m, 4H), 2.9 ppm (m, 4H), 7.0 ppm (s, 1H), 7.3 ppm (dd, 1H), 7.5 ppm (d, 1H), 7.8 ppm (d, 1H); MS (M+H)+ 300/302.

reactant | 1-(1-Benzenesulphonyl-5-chloroindol-2-ylsulphonyl)piperazine | 9.44 mmol, 4.15 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)Cl)S(=O)(=O)N1CCNCC1 | C18H18ClN3O4S2
reactant | sodium hydroxide | 2.5M, 32 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 1-(5-chloroindol-2-ylsulphonyl)piperazine | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCNCC1 | C12H14ClN3O2S
